US04594425
A. 3-[(2-benzthiazolyl)methoxy]phenylhydroxylamine
To a solution of 3-[(2-benzthiazolyl)methoxy]nitrobenzene (1.6 g), prepared as in Example 1B, in tetrahydrofuran with 10% palladium on carbon is slowly added hydrazine hydrate (0.4 ml). Fresh catalyst is added twice over 4 hours. The mixture is filtered through celite and the solvent is removed in vacuo to give 1.3 g (81% yield) of product, m.p. 112°-114° C.

reactant | 3-[(2-benzthiazolyl)methoxy]nitrobenzene | 1.6 g | S1C(=NC2=C1C=CC=C2)COC=2C=C(C=CC2)[N+](=O)[O-] | C14H10N2O3S
reactant | hydrazine hydrate | 0.4 ml | O.NN
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | palladium on carbon | [Pd] | Pd
product | 3-[(2-benzthiazolyl)methoxy]phenylhydroxylamine | 1.3 g, 81% yield | S1C(=NC2=C1C=CC=C2)COC=2C=C(C=CC2)NO | C14H12N2O2S
